US06635657B1
C. 2-(4-tert-Butylphenyl)-4H-3,1-benzoxazin-4-one
To a stirring mixture of the 2-(4-tert-butylbenzoylamino)benzoic acid (9.5 g, 32 mmol), CH2Cl2 (200 mL) and 2 drops of DMF was added 2 M oxalyl chloride in CH2Cl2 (19 mL). After stirring at ambient temperature for 45 minutes, the mixture was concentrated under vacuum to an oil, redissolved in 100 mL CH2Cl2 and cooled to 0° C. To this was added triethylamine (3.3 g, 33 mmol) at 0° C. for 1 hour. The solvent was removed in vacuo and the residue purified by flash chromatrography using hexanes/EtOAc to give 8.6 g (96%) of a white powder.

reactant | 2-(4-tert-butylbenzoylamino)benzoic acid | 32 mmol, 9.5 g | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)O)C=CC=C2)C=C1 | C18H19NO3
reactant | oxalyl chloride | 2 M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 33 mmol, 3.3 g | C(C)N(CC)CC | C6H15N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 19 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-tert-Butylphenyl)-4H-3,1-benzoxazin-4-one | 8.6 g, 96% | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=CC=C2 | C18H17NO2
